US08309376B2
In a 100 mL 3-neck flask, 0.7146 g of piperidine (8.358 mmol) catalyst, 1.4369 g of benzaldehyde (13.543 mmol), and 10.2061 g of bis(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl) malonate (12.818 mmol) were stirred at room temperature. Throughout the reaction, both a solid and liquid were observed. After two hours, some of the liquid was removed mixed with acetone to obtain a GC sample that indicated a deficiency of benzaldehyde. Approximately 1 mL of additional benzaldehyde was added. After 24 hours, the reaction was stopped and solvent was removed on a rotary evaporator. The residue was dissolved in petroleum ether and cooled in dry ice overnight. The sample was then vacuum filtered to yield the desired white solid bis(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)2-benzylidenemalonate.

reactant | piperidine | 8.358 mmol, 0.7146 g | N1CCCCC1 | C5H11N
reactant | benzaldehyde | 13.543 mmol, 1.4369 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | bis(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl) malonate | 12.818 mmol, 10.2061 g | C(CC(=O)OCCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(=O)OCCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C19H10F26O4
reactant | benzaldehyde | 1 mL | C(C1=CC=CC=C1)=O | C7H6O
product | bis(3,3,4,4,5,5,6,6,7,7,8,8,8-tridecafluorooctyl)2-benzylidenemalonate | FC(CCOC(C(C(=O)OCCC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=CC1=CC=CC=C1)=O)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C26H14F26O4
